US04214094
(a) To 60 ml of absolute ethanol is added 0.58 g of sodium, and 4.6 g of 4-[N-(3-chlorophenyl)formimidoyl]phenol and then 5.84 g of ethyl 2-bromo-2-methylpropionate are added to the solution at room temperature with stirring. The mixture is refluxed under heating and with stirring for 5 hours. After distilling off the ethanol from the reaction mixture, the residue is dissolved in ether. The solution is washed with 5% aqueous solution of sodium hydroxide until disappearance of the color of the aqueous layer, then washed with water and dried. After drying, the solvent is distilled off to give 4.1 g of ethyl 2-[4-{N-(3-chlorophenyl)formimidoyl}phenoxy]-2-methylpropionate.

reactant | sodium | 0.58 g | [Na] | Na
reactant | 4-[N-(3-chlorophenyl)formimidoyl]phenol | 4.6 g | ClC=1C=C(C=CC1)N=CC1=CC=C(C=C1)O | C13H10ClNO
reactant | ethyl 2-bromo-2-methylpropionate | 5.84 g | BrC(C(=O)OCC)(C)C | C6H11BrO2
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | ethyl 2-[4-{N-(3-chlorophenyl)formimidoyl}phenoxy]-2-methylpropionate | 4.1 g | ClC=1C=C(C=CC1)N=CC1=CC=C(OC(C(=O)OCC)(C)C)C=C1 | C19H20ClNO3
